US07122550B2
2-Methoxy-4-(6-{[(1R)-1-(4-methylphenyl)ethyl]amino}pyrazin-2-yl)phenol
In a procedure analogous to Example 2, reaction of 6-chloro-N-[(1R)-1-(4-methylphenyl)ethyl]pyrazin-2-amine (56.8 mg, 0.229 mmol) and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol 63 mg, 0.25 mmol) furnished the product (5 mg, 6%).

reactant | 6-chloro-N-[(1R)-1-(4-methylphenyl)ethyl]pyrazin-2-amine | 0.229 mmol, 56.8 mg | ClC1=CN=CC(=N1)N[C@H](C)C1=CC=C(C=C1)C | C13H14ClN3
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.25 mmol, 63 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 2-Methoxy-4-(6-{[(1R)-1-(4-methylphenyl)ethyl]amino}pyrazin-2-yl)phenol | 5 mg, 6% | COC1=C(C=CC(=C1)C1=NC(=CN=C1)N[C@H](C)C1=CC=C(C=C1)C)O | C20H21N3O2
